US05807889
To a solution of all of the 5-nitrobenzofuran in 90% ethanol (50 ml) kept at reflux were added small portions of Fe powder (in total 2.5 g) and concentrated HCl (in total 0.1 ml) during 10 min. The mixture was refluxed for another hour. The inorganic precipitates were filtered off and the mixture was poured onto brine and ethyl acetate (250 ml). work-up of the organic phase afforded 1 g of crystalline 5-aminobenzofuran derivative.

reactant | 5-nitrobenzofuran | [N+](=O)([O-])C=1C=CC2=C(C=CO2)C1 | C8H5NO3
reactant | HCl | 0.1 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Fe | 2.5 g | [Fe] | Fe
product | 5-aminobenzofuran | 1 g | NC=1C=CC2=C(C=CO2)C1 | C8H7NO
